US07115611B2
A] [rac]-(4-{1-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester
231 mg (0.7 mmol) cesium carbonate was added to a solution of 210 mg (0.59 mmol) [rac]-5-(1-chloro-butyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 30D]) and 151 mg (0.59 mmol) (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester (example 28C]) in 3 ml DMF. After stirring for 3 h at RT, the reaction mixture was taken up in ether and washed with 1N HCl and water. The crude product was purified by chromatography over silica gel with AcOEt/heptane 1:9 providing 257 mg of pure [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester.

reactant | cesium carbonate | 0.7 mmol, 231 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [rac]-5-(1-chloro-butyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 0.59 mmol, 210 mg | ClC(CCC)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C18H18ClF3N2
reactant | (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester | 0.59 mmol, 151 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)S)C)=O | C13H18O3S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | [rac]-(4-{1-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(CCC)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C31H35F3N2O3S
